US07700655B2
(3) 4-Benzyloxy-N3-[3,5-bis(trifluoromethyl)phenyl]-N1,N1-dimethylisophthalamide
WSC.HCl (95 mg, 0.50 mmol) was added to a solution of 4-benzyloxy-N-[3,5-bis(trifluoromethyl)phenyl]isophthalamic acid (242 mg, 0.50 mmol), dimethylamine hydrochloride (41 mg, 0.50 mmol) and triethylamine (51 mg, 0.50 mmol) in tetrahydrofuran (5 mL) under ice cooling, and the mixture was stirred at room temperature for 3 hours. The reaction mixture was poured into water and extracted with ethyl acetate. After the organic layer was washed with diluted hydrochloric acid, water and brine, dried over anhydrous magnesium sulfate, the residue obtained by evaporation of the solvent under reduced pressure was purified by chromatography on silica gel (hexane:ethyl acetate=1:4) to give the title compound (165 mg, 64.9%) as a white solid.

reactant | WSC.HCl | 0.50 mmol, 95 mg | CCN=C=NCCCN(C)C.Cl
reactant | 4-benzyloxy-N-[3,5-bis(trifluoromethyl)phenyl]isophthalamic acid | 0.50 mmol, 242 mg | C(C1=CC=CC=C1)OC1=C(C=C(C(=O)O)C=C1)C(=O)NC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F | C23H15F6NO4
reactant | dimethylamine hydrochloride | 0.50 mmol, 41 mg | Cl.CNC
reactant | triethylamine | 0.50 mmol, 51 mg | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 4-Benzyloxy-N3-[3,5-bis(trifluoromethyl)phenyl]-N1,N1-dimethylisophthalamide | 165 mg, 64.9% | C(C1=CC=CC=C1)OC1=C(C=C(C(=O)N(C)C)C=C1)C(=O)NC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F | C25H20F6N2O3
